US09303016B2
Synthesis of tert-butyl 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-19
A 15 mL seal tube fitted with magnetic stirrer was charged with 5 mL of THF, tert-butyl 5-hydroxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-6 (50 mg, 0.2 mmol). To the tube, potassium hydride (20 mg, 0.5 mmol) was added at 0° C., under N2 atm. The reaction mass was stirred at room temperature for 30 minutes. To this mixture, cyclopropyl methyl bromide (40 mg, 0.3 mmol) was slowly added at 0° C. and the resulting reaction mass was refluxed at 60° C. under sealed condition for 12 hrs. After completion of the reaction (reaction was monitored by TLC), reaction mixture was quenched with cold water and extracted with ethyl acetate (25 ml×3). The organic layer was washed with sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to give crude Intermediate-17, which was subjected to column chromatogram (18% EtOAc in PE) to obtain an oily mass (50 mg, yield=80%).

reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | tert-butyl 5-hydroxy-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | OC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C14H23NO3
reactant | potassium hydride | 0.5 mmol, 20 mg | [H-].[K+]
reactant | cyclopropyl methyl bromide | 0.3 mmol, 40 mg | C1(CC1)CBr | C4H7Br
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | yield=80% | C1(CC1)COC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C18H29NO3
